US05380734
6-Chloro-3-pyridinecarboxylic acid (15.76 g, 0.1 mole) and aniline (9.3 g, 0.1 mole) were heated together in 50 mL xylene at 180°-185° C. (oil bath) for 3 hours. After cooling, the solid that formed was filtered and washed with Et2O. The solid was triturated with NaHCO3 solution (pH 8), then filtered to give 7.0 g (24%) of N-phenyl-6-(phenylamino)-3-pyridinecarboxamide. The aqueous NaHCO3 solution was carefully neutralized with glacial HOAc (pH 6), and the solid that precipitated was filtered and washed. (H2O and with Et2O); yield 12.13 g (57%), mp 264°-266° C. MS (EI) m/e 214 (M+), 213 (M-1, base), 169 (M-45), 167 (M-47).

reactant | 6-Chloro-3-pyridinecarboxylic acid | 0.1 mole, 15.76 g | ClC1=CC=C(C=N1)C(=O)O | C6H4ClNO2
reactant | aniline | 0.1 mole, 9.3 g | NC1=CC=CC=C1 | C6H7N
solvent | xylene | 50 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-phenyl-6-(phenylamino)-3-pyridinecarboxamide | 7.0 g, 24% | C1(=CC=CC=C1)NC(=O)C=1C=NC(=CC1)NC1=CC=CC=C1 | C18H15N3O
